US04189484
Reference EXAMPLE 5. 4-Ethoxycinnamoylpiperazine
From 11.52 g. of 4-ethoxycinnamic acid and 10.71 g. of thionylchloride was prepared 4-ethoxycinnamoyl chloride, a solution of which in tetrahydrofuran was added gradually to a solution of 23.4 g. of piperazine hexahydrate, 20.67 g. of 47% hydrobromic acid and 90 ml. of ethanol. The resulting mixture was stirred overnight at room temperature and cooled with ice, the forming crystals being filtered off. The filtrate was condensed and treated just as in Reference example 1 to obtain 11.23 g. of the desired product (72% yield). The product was treated with concentrated hydrochloric acid to give the corresponding hydrochloride.

reactant | 4-ethoxycinnamic acid | C(C)OC1=CC=C(C=CC(=O)O)C=C1 | C11H12O3
reactant | thionylchloride | S(=O)(Cl)Cl | Cl2OS
reactant | 4-ethoxycinnamoyl chloride | C(C)OC1=CC=C(C=CC(=O)Cl)C=C1 | C11H11ClO2
reactant | piperazine hexahydrate | O.O.O.O.O.O.N1CCNCC1
reactant | hydrobromic acid | Br | BrH
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethanol | C(C)O | C2H6O
product | 4-Ethoxycinnamoylpiperazine | 72% yield | C(C)OC1=CC=C(C=CC(=O)N2CCNCC2)C=C1 | C15H20N2O2
